US05162360
Preparation of N-[2,6-bis(1-methylethyl)phenyl]-N'-(1-undecyl-1H-pyrazol-5-yl)urea
A solution of 3-amino-1-undecyl 1H pyrazole (3.7 g, 15.6 mmol) and 2,6-diisopropylphenylisocyanate (3.15 mL, 15.6 mmol) in acetonitrile (100 mL) was heated under reflux for 5 hours, then cooled (25° C.) and concentrated in vacuo to yield 7.0 g (100%) of the title compound as a yellow oil.

reactant | 3-amino-1-undecyl 1H pyrazole | 15.6 mmol, 3.7 g | NC1=NN(C=C1)CCCCCCCCCCC | C14H27N3
reactant | 2,6-diisopropylphenylisocyanate | 15.6 mmol, 3.15 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | acetonitrile | 100 mL | C(C)#N | C2H3N
product | N-[2,6-bis(1-methylethyl)phenyl]-N'-(1-undecyl-1H-pyrazol-5-yl)urea | 7.0 g, 100% | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NC1=CC=NN1CCCCCCCCCCC | C27H44N4O
